US07138491B2
The preparation of HCl-Ala-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl (SEQ ID NO: 13)
The solution of 100 mg (0.080 mmol) of Boc-Ala-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl (SEQ ID NO: 13) in 3 ml of hydrogen chloride in ethyl acetate (4 mol/L) was stirred at room temperature for 2 h and TLC (chloroform/methanol, 10:1) indicated complete disappearance of Boc-Ala-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl (SEQ ID NO: 13). The reaction mixture was evaporated under reduced pressure with ethyl acetate, repeatedly, to remove hydrogen chloride. The residue was triturated with ether to provide the title compound as a colorless powder, which was used for the next reaction directly.

reactant | Boc-Ala-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl | 0.080 mmol, 100 mg | N([C@@H](C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OCC2=C(Cl)C=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C50H68ClN9O12S
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | hydrogen chloride | 3 ml | Cl | ClH
solvent | ethyl acetate | 4 mol/L | C(C)(=O)OCC | C4H8O2
product | HCl-Ala-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl | N([C@@H](C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OCC2=C(Cl)C=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1)Cl | C45H59Cl2N9O10S
